US07423031B2
To a solution of 2,3-dichloro-4-hydroxy-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one (60 mg, 0.256 mmol), prepared as in reference 2, in methanesulfonic acid (0.5 mL) is added 2-aminoimidazole sulfate (40.5 mg, 0.153 mmol). The mixture is stirred at 45° C. overnight, cooled to room temperature and Et2O (5 mL) is added resulting in brown oil. After discarding the supernatant, the oil is purified by silica gel column chromatography and eluted with MeOH—CH2Cl2 to give 4-(2-amino-3H-imidazol-4-yl)-2,3-dichloro-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one; 1H NMR (Methanol-d4) δ 2.09-2.17 (m, 1H), 2.23-2.31 (m, 1H), 3.20-3.29 (m, 2H), 4.23 (t, 1H, J=3.6 Hz), 6.18 (s, 1H); m/z [M++1] 300.0.

reactant | 2,3-dichloro-4-hydroxy-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one | 0.256 mmol, 60 mg | ClC1=C(C2=C(C(NCCC2O)=O)N1)Cl | C8H8Cl2N2O2
reactant | 2-aminoimidazole sulfate | 0.153 mmol, 40.5 mg | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | Et2O | 5 mL | CCOCC | C4H10O
solvent | methanesulfonic acid | 0.5 mL | CS(=O)(=O)O | CH4O3S
product | 4-(2-amino-3H-imidazol-4-yl)-2,3-dichloro-4,5,6,7-tetrahydro-1H-pyrrolo[2,3-c]azepin-8-one | NC1=NC=C(N1)C1C2=C(C(NCC1)=O)NC(=C2Cl)Cl | C11H11Cl2N5O
